US08445501B2
trans-[4-({4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl}-amino)-cyclohexyl]-carbamic acid tert-butyl ester
Starting from 4-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example A74) and commercially available trans-(4-amino-cyclohexyl)-carbamic acid tert-butyl ester the title compound was obtained as colorless solid.

reactant | 4-[4-methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | COC1=CC(=C(C=C1)C=1C2=C(N=CN1)C(=CN2)C(=O)O)OCCOC | C17H17N3O5
reactant | trans-(4-amino-cyclohexyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)N)=O | C11H22N2O2
product | trans-[4-({4-[4-Methoxy-2-(2-methoxy-ethoxy)-phenyl]-5H-pyrrolo[3,2-d]pyrimidine-7-carbonyl}-amino)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=C(C=C2)OC)OCCOC)=O | C28H37N5O6
